US04847386
Preparation of 3-amino-4-cyanothiophene hydrochloride
4-Cyano-3-oxotetrahydrothiophene (1.27 g) was dissolved in acetonitrile (15 ml) with heating and stirring. Hydroxylamine hydrochloride (0.69 g) was added to the refluxing solution and the mixture was refluxed for 11/2hour. After cooling, ether (25 ml) was added and the title compound was filtered off and air-dried. Yield 1.35 g (84%); mp 244°-246°. δ'H nmr (CDCl3 /DMSO-d6) 9.2(br s) 8.55 (d, J=4Hz) 7.85 (d, J=4Hz).

reactant | 4-Cyano-3-oxotetrahydrothiophene | 1.27 g | C(#N)C1C(CSC1)=O | C5H5NOS
reactant | Hydroxylamine hydrochloride | 0.69 g | Cl.NO
reactant | ether | 25 ml | CCOCC | C4H10O
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 3-amino-4-cyanothiophene hydrochloride | Cl.NC1=CSC=C1C#N | InChI=1S/C5H4N2S.ClH/c6-1-4-2-8-3-5(4)7;/h2-3H,7H2;1H
